US04059641
(Z)-1,1-Diethoxy-6,10-dimethyl-5,9-undecadien-2-one
Reaction of neryl bromide which has been prepared from 31 g of nerol with 41.5 g of ethyl 4,4-diethoxyacetoacetate was carried out in the same manner as in Referential example 1 to yield 20 g of the desired product, b.p. 122° C/0.02 mmHg.

reactant | neryl bromide | C(\C=C(\C)/CCC=C(C)C)Br | C10H17Br
reactant | nerol | 31 g | OC\C=C(/CCC=C(C)C)\C | C10H18O
reactant | ethyl 4,4-diethoxyacetoacetate | 41.5 g | C(C)OC(C(CC(=O)OCC)=O)OCC | C10H18O5
product | (Z)-1,1-Diethoxy-6,10-dimethyl-5,9-undecadien-2-one | 20 g | C(C)OC(C(CC\C=C(/CCC=C(C)C)\C)=O)OCC | C17H30O3
